US08404859B2
To a solution of 2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-N-(4-chloro-5-formyl-thiazol-2-yl)-acetamide (590 mg, 1.436 mmol) in t-butanol (15 mL) stirred at 60° C. was added drop wise potassium permanganate (405 mg, 2.56 mmol) in water (5 mL) over 15 minutes. The resultant reaction mixture was heated at 80′C for 2 h. The reaction mixture was filtered hot through celite and washed with hot 1/1 t-butanol/water. The filtrate was acidified to pH 1 with aqueous 2N HCl and extracted with 9:1 Methylene chloride/methanol (3×75 mL). The organic layers were combined, washed with brine (50 mL), dried over MgSO4, filtered, concentrated under reduced pressure and dried to give 2-{2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-acetylamino}-4-chloro-thiazole-5-carboxylic acid (0.52 g, 84.8%) as a pale yellow solid. MS m/e 428.0 (M+H+).

reactant | 2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-N-(4-chloro-5-formyl-thiazol-2-yl)-acetamide | 1.436 mmol, 590 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)CC(=O)NC=1SC(=C(N1)Cl)C=O)(C)C | C18H23ClN2O3SSi
reactant | potassium permanganate | 2.56 mmol, 405 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
solvent | water | 5 mL | O | H2O
product | 2-{2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-acetylamino}-4-chloro-thiazole-5-carboxylic acid | 0.52 g, 84.8% | C(C)(C)(C)[Si](OC=1C=C(C=CC1)CC(=O)NC=1SC(=C(N1)Cl)C(=O)O)(C)C | C18H23ClN2O4SSi
